US05488176
Hydrogen peroxide is reacted with tertiary butyl alcohol in accordance with the invention to form DTBP. About 4.5 grams of 30% aqueous hydrogen peroxide are combined with 0.5 grams of 12-tungstophosphoric acid catalyst (H3PW12O40) and 5.92 grams of tertiary butyl alcohol, and the mixture is heated to 80° C. under a nitrogen blanket. After 4 hours reaction time, 3.50 grams of an organic layer was separated. Analysis of the organic layer showed 20 wt% tertiary butyl alcohol, 34 wt% tertiary butyl hydroperoxide, 35 wt% ditertiary butyl peroxide, 4 wt% acetone and 2.4 wt% methanol.

reactant | Hydrogen peroxide | OO | H2O2
reactant | tertiary butyl alcohol | C(C)(C)(C)O | C4H10O
product | DTBP | CC(C)(C)OOC(C)(C)C | C8H18O2
